US06133263
Sodium 3-[4-Benzo[1,3]dioxol-5-yl-2-(4-methoxy-phenyl)-5-oxo-3-(3,4,5-trimethoxy-benzyl)-2,5-dihydro-furan-2-yloxy]-propane-1-sulfonate
To 50 mL 1,4-dioxane was added 3-Benzo[1,3]dioxol-5-yl-5-(3-bromo-propoxy)-5-(4-methoxy-phenyl)-4-(3,4,5-trimethoxy-benzyl)5H-furan-2-one 2.0 g (3.19 mmol). A solution of sodium sulfite, 0.88 g (7.0 mmol) in 50 mL water was added, and the mixture was refluxed for 18 hours. The mixture was evaporated in vacuo and the residue was suspended in ethyl ether and water. The suspension was acidified to pH 1 with 2 N HCl, giving an oily precipitate in the aqueous phase. The ether was decanted, and the oil was extracted into ethyl acetate and washed with saturated sodium chloride solution. The organic phase was dried over anhydrous magnesium sulfate, filtered, and diluted with ethyl ether, giving a solid. The solid was filtered and dried in vacuo, giving a white solid, 1.07 g. The product was identified by 1H NMR, MS [M--H]+ =627.3 Da. Elemental analysis indicated the material to contain 1/2 sodium salt per molecule.

reactant | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
reactant | 3-Benzo[1,3]dioxol-5-yl-5-(3-bromo-propoxy)-5-(4-methoxy-phenyl)-4-(3,4,5-trimethoxy-benzyl)5H-furan-2-one | 3.19 mmol, 2.0 g | O1COC2=C1C=CC(=C2)C=2C(OC(C2CC2=CC(=C(C(=C2)OC)OC)OC)(C2=CC=C(C=C2)OC)OCCCBr)=O | C31H31BrO9
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium | [Na] | Na
solvent | water | 50 mL | O | H2O
product | Sodium 3-[4-Benzo[1,3]dioxol-5-yl-2-(4-methoxy-phenyl)-5-oxo-3-(3,4,5-trimethoxy-benzyl)-2,5-dihydro-furan-2-yloxy]-propane-1-sulfonate | O1COC2=C1C=CC(=C2)C2=C(C(OC2=O)(OCCCS(=O)(=O)[O-])C2=CC=C(C=C2)OC)CC2=CC(=C(C(=C2)OC)OC)OC.[Na+] | InChI=1S/C31H32O12S.Na/c1-36-22-9-7-21(8-10-22)31(42-12-5-13-44(33,34)35)23(14-19-15-26(37-2)29(39-4)27(16-19)38-3)28(30(32)43-31)20-6-11-24-25(17-20)41-18-40-24;/h6-11,15-17H,5,12-14,18H2,1-4H3,(H,33,34,35);/q;+1/p-1
